US09228120B2
Additionally, for example when mixing 1,3-dioctyltetramethyldisilazane as the silicon compound B and trifluoroacetic anhydride as the acid B, the trifluoroacetic anhydride is rapidly reacted to form octyldimethylsilyl trifluoroacetate as the acid A.

reactant | 1,3-dioctyltetramethyldisilazane | C(CCCCCCC)[Si](N[Si](CCCCCCCC)(C)C)(C)C | C20H47NSi2
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | octyldimethylsilyl trifluoroacetate | FC(C(=O)O[Si](C)(C)CCCCCCCC)(F)F | C12H23F3O2Si
